US07745484B2
Synthesis of (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate
(4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate (0.100 g, 0.219 mmol) was dissolved in THF (4 mL) and cooled to 0° C. Next, TBAF (0.547 ml, 0.547 mmol) was added dropwise and the reaction was stirred 1 hr. and then quenched with saturated ammonium chloride and diluted with EtOAc. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water, brine, dried over sodium sulfate, and concentrated. Purification by column chromatography (2.5:1 Hexanes/EtOAc) afforded the title compound.

reactant | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate (4S,5S)-Tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | 0.219 mmol, 0.100 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@@H]1CC=1N=C(SC1)C)CO[Si](C)(C)C(C)(C)C)(C)C.OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=C(SC1)C
reactant | TBAF | 0.547 mmol, 0.547 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 5-(hydroxymethyl)-2,2-dimethyl-4-((2-methylthiazol-4-yl)methyl)oxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC=1N=C(SC1)C | C16H26N2O4S
